US04460774
The 1,4-bis(4-aminobenzyl)-2,3-dioxopiperazine was reacted with 2-bromopyrimidine in the same manner as in Example 6-(1) to obtain 1,4-bis[4-(2-pyrimidinylamino)benzyl]-2,3-dioxopiperazine (14.7% yield).

reactant | 1,4-bis(4-aminobenzyl)-2,3-dioxopiperazine | NC1=CC=C(CN2C(C(N(CC2)CC2=CC=C(C=C2)N)=O)=O)C=C1 | C18H20N4O2
reactant | 2-bromopyrimidine | BrC1=NC=CC=N1 | C4H3BrN2
product | 1,4-bis[4-(2-pyrimidinylamino)benzyl]-2,3-dioxopiperazine | 14.7% yield | N1=C(N=CC=C1)NC1=CC=C(CN2C(C(N(CC2)CC2=CC=C(C=C2)NC2=NC=CC=N2)=O)=O)C=C1 | C26H24N8O2
